US07482337B2
6-chloromethyl-1,2,3,4-tetrahydro-phenanthridine-hydrochloride
Prepared by treating 110 mg of 6-hydroxymethyl-1,2,3,4-tetrahydro-phenanthridine with 60 μl of thionyl chloride in 2.5 ml methylene chloride at 0° C. to ambient temperature.

reactant | 6-hydroxymethyl-1,2,3,4-tetrahydro-phenanthridine | 110 mg | OCC=1N=C2CCCCC2=C2C=CC=CC12 | C14H15NO
reactant | thionyl chloride | 60 μl | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | 2.5 ml | C(Cl)Cl | CH2Cl2
product | 6-chloromethyl-1,2,3,4-tetrahydro-phenanthridine-hydrochloride | Cl.ClCC=1N=C2CCCCC2=C2C=CC=CC12 | InChI=1S/C14H14ClN.ClH/c15-9-14-12-7-2-1-5-10(12)11-6-3-4-8-13(11)16-14;/h1-2,5,7H,3-4,6,8-9H2;1H
